US07569536B2
Concentrated hydrochloric acid (1.13 ml, 13.5 mmol) and anhydrous tin dichloride (1.38 g, 7.28 mmol) were sequentially added at 0° C. to a methanol (7 ml) solution of 2-[2-nitro-4-(trifluoromethyl)phenyl]isoindoline (641 mg, 2.08 mmol), obtained as described in Referential Example 20-1. The resulting mixture was warmed to room temperature and stirred for 8.5 hours. A saturated aqueous solution of sodium bicarbonate was added to the mixture. The resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30 g, hexane/ethyl acetate=15/1). Thus, 2-[2-amino-4-(trifluoromethyl)phenyl]isoindoline (225 mg, 38.9%) was yielded as a red-orange colored oily material.

reactant | hydrochloric acid | 13.5 mmol, 1.13 ml | Cl | ClH
reactant | tin dichloride | 7.28 mmol, 1.38 g | [Sn](Cl)Cl
reactant | 2-[2-nitro-4-(trifluoromethyl)phenyl]isoindoline | 2.08 mmol, 641 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CC2=CC=CC=C2C1 | C15H11F3N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 7 ml | CO | CH4O
product | 2-[2-amino-4-(trifluoromethyl)phenyl]isoindoline | 225 mg, 38.9% | NC1=C(C=CC(=C1)C(F)(F)F)N1CC2=CC=CC=C2C1 | C15H13F3N2
